US09238631B2
Di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-{[5-(2-{[(4-methylphenyl)sulfonyl]oxy}ethoxy)-1-oxidopyridin-2-yl]methyl}-L-glutamate
To a solution of 125 mg di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-{[5-(2-{[(4-methylphenyl)sulfonyl]oxy}ethoxy)pyridin-2-yl]methyl}-L-glutamate (0.19 mmol; see Example XB) in dichloromethane (10 mL) was added 51 mg meta-chloro peroxybenzoic acid (70%), and the mixture was stirred for 3 h at room temperature. The mixture was extracted with aqueous sodium bicarbonate, followed by re-extraction of the aqueous layer with dichloromethane. The combined organic layers were dried over magnesium sulfate and concentrated in vacuo, and the residue was purified by preparative HPLC. (Method D) to give 104 mg of the target compound as colourless foam (81% yield).

reactant | di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-{[5-(2-{[(4-methylphenyl)sulfonyl]oxy}ethoxy)pyridin-2-yl]methyl}-L-glutamate | 0.19 mmol, 125 mg | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=NC=C(C=C1)OCCOS(=O)(=O)C1=CC=C(C=C1)C)C(=O)OC(C)(C)C | C33H48N2O10S
reactant | meta-chloro peroxybenzoic acid | 51 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-{[5-(2-{[(4-methylphenyl)sulfonyl]oxy}ethoxy)-1-oxidopyridin-2-yl]methyl}-L-glutamate | 104 mg, 81% yield | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=[N+](C=C(C=C1)OCCOS(=O)(=O)C1=CC=C(C=C1)C)[O-])C(=O)OC(C)(C)C | C33H48N2O11S
